US08664210B2
(E)-3-[3-(R)-Pyrrolidinyl]oxyimino-4,4-dimethylandrostan-5α,17β-diol hydrochloride (I-by)
The title compound was obtained in 51% yield following the procedure described in Example 2 and starting from 4,4-dimethyl-5α,17β-dihydroxyandrostan-3-one (Preparation 28, 33 mg) and 3-(R)-pyrrolidinyloxyamine dihydrochloride (Preparation 12, 69 mg). The crude product was triturated with Et2O and the resulting precipitate was filtered to give the title compound I-by.

reactant | 4,4-dimethyl-5α,17β-dihydroxyandrostan-3-one | 33 mg | CC1([C@@]2(CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)O)O)C | C21H34O3
reactant | 3-(R)-pyrrolidinyloxyamine dihydrochloride | 69 mg | Cl.Cl.N1C[C@@H](CC1)ON
product | (E)-3-[3-(R)-Pyrrolidinyl]oxyimino-4,4-dimethylandrostan-5α,17β-diol hydrochloride | Cl.N1C[C@@H](CC1)O\N=C/1\C([C@@]2(CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)O)O)(C)C | InChI=1S/C25H42N2O3.ClH/c1-22(2)20(27-30-16-10-14-26-15-16)9-12-24(4)19-8-11-23(3)18(5-6-21(23)28)17(19)7-13-25(22,24)29;/h16-19,21,26,28-29H,5-15H2,1-4H3;1H/b27-20+;/t16-,17+,18+,19+,21+,23+,24-,25-;/m1./s1
